US04873252
1-Pentanoyl-2-(2-hydroxyethyl)-piperidine
65 g (0.5 mol) of 2-(2-hydroxyethyl)-piperidine and 90 ml of triethylamine (0.64 mol) are dissolved in 1 liter of tetrahydrofuran, and 80 ml (0.67 mol) of valeryl chloride are added at -20° C. The mixture is warmed at 20° C. for one day and the solvent is then largely removed on a rotary evaporator; the residue is taken up in methylene chloride, the mixture is washed with 1N NaOH solution, the organic phase is dried and the solvent is removed by distillation on a rotary evaporator. In order to remove impurities of the bis-acylated compound, the product is taken up in 200 ml of ethanol and the mixture is warmed at 50° C. with 200 ml of 1N sodium hydroxide solution for one hour. It is evaporated on a rotary evaporator again, the residue is extracted with CH2Cl2 /H2O, the organic phase is dried and evaporated on a rotary evaporator and the residue is distilled in a bulb tube oven (boiling point0.2 =165° C).

reactant | 2-(2-hydroxyethyl)-piperidine | 0.5 mol, 65 g | OCCC1NCCCC1 | C7H15NO
reactant | triethylamine | 0.64 mol, 90 ml | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 0.67 mol, 80 ml | C(CCCC)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 1-Pentanoyl-2-(2-hydroxyethyl)-piperidine | C(CCCC)(=O)N1C(CCCC1)CCO | C12H23NO2
